US05597836
4-[2-[4-(2,2,2-trifluoroethoxy)phenyl]ethoxy]pyridine (Compound 10A)
To a suspension of about one gram of 60% NaH (dispersion in oil) in 20 mL of dry DMF was added 5.2 g (0.023 m) of 2-[4-(2,2,2-trifluoroethoxy)phenyl]ethanol. The mixture was stirred at room temperature for 40 minutes, then 3.1 g (0.02 m) of methylsulfonyl pyridine was added. The mixture was stirred at room temperature overnight, then DMF was evaporated in vacuo, and the residue was diluted with water and extracted with CH2Cl2. The CH2Cl2 layer was separated, washed with saturated NaCl solution and filtered through phase separating paper. The product was concentrated to yield 6.2 g of crude product, which was adsorbed onto silica gel and chromatographed over silica gel 60 (230-400 mesh) using CH2Cl2 →50% EtOAc/CH2Cl2 to give the title product as an oil. Yield 2.5 g.

reactant | NaH | about one gram | [H-].[Na+]
reactant | 2-[4-(2,2,2-trifluoroethoxy)phenyl]ethanol | 5.2 g | FC(COC1=CC=C(C=C1)CCO)(F)F | C10H11F3O2
reactant | methylsulfonyl pyridine | 3.1 g | CS(=O)(=O)C1=NC=CC=C1 | C6H7NO2S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[2-[4-(2,2,2-trifluoroethoxy)phenyl]ethoxy]pyridine | FC(COC1=CC=C(C=C1)CCOC1=CC=NC=C1)(F)F | C15H14F3NO2
